US08003677B2
3a: tert-Butyl 3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrole-2-carboxylate
1,2,3,4,5,6-Hexahydropyrrolo[3,4-c]pyrrole dihydrobromide (4.3 g, 15.82 mmol) are dissolved in 215 ml of water, and then sodium hydrogencarbonate (3.45 g , 41.07 mmol) is added. With stirring, di-tert-butyl dicarbonate (3.46 g, 15.85 mmol) in 40 ml of methanol is added, and the mixture is stirred at room temperature for 4 h. The precipitated di-tert-butyl 4,6-dihydro-1H,3H-pyrrolo[3,4-c]pyrrole-2,5-dicarboxylate solid is filtered off with suction, and the filtrate is concentrated and lyophilized. The crude product (contains approx. 2.3 g of product) is converted further directly.

reactant | 1,2,3,4,5,6-Hexahydropyrrolo[3,4-c]pyrrole dihydrobromide | 15.82 mmol, 4.3 g | Br.Br.C1NCC2=C1CNC2
reactant | sodium hydrogencarbonate | 41.07 mmol, 3.45 g | C(O)([O-])=O.[Na+]
reactant | di-tert-butyl dicarbonate | 15.85 mmol, 3.46 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 215 ml | O | H2O
solvent | methanol | 40 ml | CO | CH4O
product | tert-Butyl 3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrole-2-carboxylate | C1N(CC2=C1CNC2)C(=O)OC(C)(C)C | C11H18N2O2
